US07115615B2
4-(6chloro-2,3-methylenedioxyanilino)-7-(N-cyanomethylpiperidin-4-ylmethoxy)-6-methoxyquinazoline
Using an analogous procedure to that described in Example 12, 4-(6-chloro-2,3-methylenedioxyanilino)-6-methoxy-7-(piperidin-4-ylmethoxy)quinazoline was reacted with 2-chloroacetonitrile to give the title compound as a solid; NMR Spectrum: (DMSOd6) 1.65 (m, 2H), 2.1 (m, 2H), 2.2 (m, 1H), 3.15 (m, 2H), 3.6 (m, 2H), 4.05 (s, 3H), 4.15 (m, 2H), 4.55 (s, 2H), 6.15 (s, 2H), 7.05 (d, 1H), 7.15 (d, 1H), 7.4 (s, 1H), 8.15 (s, 1H), 8.9 (s, 1H); Mass Spectrum: M−H− 480 and 482.

reactant | 4-(6-chloro-2,3-methylenedioxyanilino)-6-methoxy-7-(piperidin-4-ylmethoxy)quinazoline | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=C(C=C13)OC)OCC1CCNCC1)OCO2 | C22H23ClN4O4
reactant | 2-chloroacetonitrile | ClCC#N | C2H2ClN
product | 4-(6chloro-2,3-methylenedioxyanilino)-7-(N-cyanomethylpiperidin-4-ylmethoxy)-6-methoxyquinazoline | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=C(C=C13)OC)OCC1CCN(CC1)CC#N)OCO2 | C24H24ClN5O4
